US03957766
Preparation of 1-Methyl-2-[2-(5-nitro-2-furyl)-4-pyrimidinyl]-hydrazino-pyrrolidine
2.08 ml. 1-methyl-2-pyrrolidone were dissolved in 8.6 ml. anhydrous dioxan, 1.92 ml. phosphorus oxychloride were added dropwise and the mixture was stirred for 1 hour at 25° - 30°C. 2.2 g. 2-(5-nitro-2-furyl)-4-hydrazino-pyrimidine were then added, a further 6.2 ml. anhydrous dioxan were added and the reaction mixture stirred for 1.5 hours at 30° - 35°C. The reaction mixture was then poured on to ice, filtered with activated charcoal and neutralized with a dilute aqueous solution of ammonia. There were thus obtained 2.6 g. (87% of theory) of a red-brown product, which was recrystallized from dioxan. There was thus obtained 1-methyl-2-[2-(5-nitro-2-furyl)-4-pyrimidinyl]-hydrazino-pyrrolidine, which melted at 175° - 177°C. The spectral and elementary analysis confirmed the structure.

reactant | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(5-nitro-2-furyl)-4-hydrazino-pyrimidine | [N+](=O)([O-])C1=CC=C(O1)C1=NC=CC(=N1)NN | C8H7N5O3
reactant | dioxan | O1CCOCC1 | C4H8O2
product | 1-Methyl-2-[2-(5-nitro-2-furyl)-4-pyrimidinyl]-hydrazino-pyrrolidine | CN(NC1=NC(=NC=C1)C=1OC(=CC1)[N+](=O)[O-])N1CCCC1 | C13H16N6O3
